US06162830
N-(2-Propynyl)-N-methyl-3,4-dimethoxybenzenesulfonamide:
3,4-Dimethoxybenzene sulfonyl chloride (11.8 g) in tetrahydrofuran (100 mL) is added slowly with stirring to a mixture of N-methylpropargylamine (3.5 g), triethylamine (5.05 g), and tetrahydrofuran (100 mL). The resulting mixture is refluxed 1 hour, cooled, filtered, and evaporated to dryness. The residue is treated with water, filtered, washed with water, and dried. Recrystallization from ethanol gave 8.7 g of the title product.

reactant | 3,4-Dimethoxybenzene sulfonyl chloride | 11.8 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | N-methylpropargylamine | 3.5 g | CNCC#C | C4H7N
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(2-Propynyl)-N-methyl-3,4-dimethoxybenzenesulfonamide | 8.7 g | C(C#C)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C | C12H15NO4S
